US08053440B2
To a solution of 4,6-dimethyl-2-nitroaniline (3 g, 18.07 mmol) in acetic acid (20 mL) and 6 N HCl (60 mL) at 0° C. was added a solution of sodium nitrite (2.18 g, 31.62 mmol) in water (5 mL). The reaction mixture was stirred at 0° C. for 30 min after completion of addition and copper (I) cyanide (3.24 g, 3 mmol) was added pinch by pinch. The resulting mixture was stirred at 0° C. for 5 h and at room temperature for an additional 2 h. The mixture was passed through a Celite pad, extracted with EtOAc (3×100 mL), and concentrated using a rotary evaporator to afford a solid residue. The solid was further purified by column (SiO2, hexanes/EtOAc=7:1) to yield 2-chloro-1,5-dimethyl-3-nitro-benzene (2.6 g, 81%) as a light yellow solid. A solution of 2-chloro-1,5-dimethyl-3-nitro-benzene (2.6 g, 15.7 mmol) and copper (I) cyanide (7.05 g, 78.3 mmol) in DMAC (20 mL) was stirred at reflux for 14 h. The reaction mixture was cooled to room temperature, quenched by adding water (30 mL), filtered through a Celite pad, extracted with EtOAc (3×100 mL), and concentrated using a rotary evaporator to afford a solid residue. The solid was further purified by column (SiO2, hexanes/EtOAc=6:1) to yield 0.64 g of 2,4-dimethyl-6-nitro-benzonitrile (23%). A solution of 2,4-dimethyl-6-nitro-benzonitrile (1.1 g, 6.24 mmol) in MeOH (20 mL) and water (10 mL) was mixed with hydrogen peroxide (10 mL), DMSO (10 mL) and potassium hydroxide (0.636 g, 11.36 mmol). The reaction mixture was stirred at 60° C. for 3 h, diluted with water (100 mL), extracted with EtOAc (3×100 mL), and concentrated using a rotary evaporator to afford 4,6-dimethyl-2-nitrobenzamide (0.52 g, 43%). A solution of 4,6-dimethyl-2-nitrobenzamide (0.52 g, 2.68 mmol) in MeOH (30 mL) was mixed with palladium carbon (0.25 g). The resulting suspension was stirred at room temperature under hydrogen for 14 h. The mixture was passed through a Celite pad, concentrated using a rotary evaporator to afford 2-amino-4,6-dimethyl benzamide (0.42 g, 95%).

reactant | 4,6-dimethyl-2-nitroaniline | 18.07 mmol, 3 g | CC1=CC(=C(N)C(=C1)C)[N+](=O)[O-] | C8H10N2O2
reactant | sodium nitrite | 31.62 mmol, 2.18 g | N(=O)[O-].[Na+]
reactant | copper (I) cyanide | 3 mmol, 3.24 g | [Cu]C#N
reactant | HCl | 6 N, 60 mL | Cl | ClH
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | water | 5 mL | O | H2O
product | 2-chloro-1,5-dimethyl-3-nitro-benzene | 2.6 g, 81% | ClC1=C(C=C(C=C1[N+](=O)[O-])C)C | C8H8ClNO2
